US05179090
5,10-Dihydro-5-[[10-methyl-4,10-diazatricyclo[5.2.1.02.6 ]dec-4-yl]carbonyl]-11H-dibenzo[b,e][1,4]diazepin-11-one
Prepared analogously to Example 14 from 1.40 g (5.1 mmoles) of 5-(chlorocarbonyl)-5,10-dihydro-11H-dibenzo [b,e][1,4]diazepin-11-one, 0.78 g (5.12 mmoles) of 10-methyl-4,10- diazatricyclo[5.2.1.0z.° ]decane, 0.7 ml (5.1 mmoles) of triethylamine and 60 ml of acetonitrile in a yield of 30% of theory.

reactant | 5-(chlorocarbonyl)-5,10-dihydro-11H-dibenzo [b,e][1,4]diazepin-11-one | 5.1 mmoles, 1.40 g | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C14H9ClN2O2
reactant | decane | CCCCCCCCCC | C10H22
reactant | triethylamine | 5.1 mmoles, 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | acetonitrile | 60 ml | C(C)#N | C2H3N
product | 5,10-Dihydro-5-[[10-methyl-4,10-diazatricyclo[5.2.1.02.6 ]dec-4-yl]carbonyl]-11H-dibenzo[b,e][1,4]diazepin-11-one | yield of 30% | CN1C2C3CN(CC3C1CC2)C(=O)N2C1=C(NC(C3=C2C=CC=C3)=O)C=CC=C1 | C23H24N4O2
